US09169261B2
Synthesis of ethyl 1-(3-fluorophenyl)pyrazole-3-carboxylate
A 50 mL of flask was charged with 2.62 g of 3-fluorobenzenebromide (15 mmol), 1.40 g of ethyl 1-H-pyrazole-3-carboxylate (10 mmol), 400 mg of CuI (2.0 mmol), 4.5 g of K2CO3 (3.3 mmol) and 0.9 mL of trans-N,N′-dimethylcyclohexayldiamine (2.0 mmol). The resulting mixture was stirred at 140° C. for 3 h. After the mixture was cooled down to room temperature, it was diluted with 200 mL EtOAc and then was washed with water (2×50 mL), and brine (2×50 mL). The organics were dried over MgSO4 and concentrated under reduced pressure. The residue was purified via flash column chromatography on silica gel (0-25% EtOAc in hexanes) to give the desired product (1.17 g, 50%).

reactant | 3-fluorobenzenebromide | 15 mmol, 2.62 g | [Br-].FC=1C=CC=CC1
reactant | ethyl 1-H-pyrazole-3-carboxylate | 10 mmol, 1.40 g | N1N=C(C=C1)C(=O)OCC | C6H8N2O2
reactant | K2CO3 | 3.3 mmol, 4.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | 2.0 mmol, 400 mg | [Cu]I
product | ethyl 1-(3-fluorophenyl)pyrazole-3-carboxylate | 1.17 g, 50% | FC=1C=C(C=CC1)N1N=C(C=C1)C(=O)OCC | C12H11FN2O2
